### PR TITLE
[Merged by Bors] - feat(FaaDiBruno): add `norm_compAlongOrderedFinpartitionL_le`

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/ContDiff/FaaDiBruno.lean [hunk 1]
```diff
@@ -786,24 +797,21 @@ variable (𝕜 E F G) in
...
+  refine MultilinearMap.mkContinuousLinear c.compAlongOrderedFinpartitionₗ 1 fun f p ↦ ?_
+  simp only [one_mul, compAlongOrderedFinpartitionₗ_apply_apply]
+  apply norm_compAlongOrderedFinpartition_le
+
+@[simp] lemma compAlongOrderedFinpartitionL_apply (f : F [×c.length]→L[𝕜] G)
     (p : ∀ (i : Fin c.length), E[×c.partSize i]→L[𝕜] F) :
     c.compAlongOrderedFinpartitionL 𝕜 E F G f p = c.compAlongOrderedFinpartition f p := rfl
 
+theorem norm_compAlongOrderedFinpartitionL_le :
+    set_option maxSynthPendingDepth 2 in
```
Comment (urkud) [inline Mathlib/Analysis/Calculus/ContDiff/FaaDiBruno.lean:811]: @kim-em How do I debug why this is needed?

Comment (sgouezel) [reply Mathlib/Analysis/Calculus/ContDiff/FaaDiBruno.lean:811]: At some point we suggested that it would probably be a good idea to have this as the default, but I don't remember what happened next.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
